Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
diazepam / IV Dye, Iodine Containing Contrast Media / 
Levofloxacin / morphine / Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
___ evaluation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ w/ PMHx of CAD s/p CABG in ___ (LIMA-LAD, 
SVG-OM2, SVG-OM2, SVG-PDA, SVG-PLB), inferior MI in the ___, PCI 
to SVG, VT ablation ___ transferred from ___ in the 
setting of chest pain, positive biomarkers and possible VT. 

Patient was in his usual state of health until the day of 
presentation to the OSH. He was driving his car when he starting 
having a coughing fit. Shortly after the coughing fit, he 
noticed that he was feeling dizzy as if he was going to pass 
out, which was accompanied by sweating. He also reports that a 
pain starting over the left side of his chest and then migrating 
to the right started to develop. It was squeezing in nature. 
This pain also radiated down his left arm. He denies radiation 
to the neck or back. Because of his symptoms, he took 1 NTG SL 
which helped with his symptoms. He took a second NTG and then 
asked his neighbor to call ___. EMS arrived, which the patient 
reports he remebers.

The patient reports that he has noticed increased abdominal 
girth in the past month or so. He also has had some ___ edema. He 
denies increasing DOE, which he has at baseline. He reports that 
he has been taking his lasix regularly in addition to 1 dose of 
metolazone weekly. He has not noticed decreased urine output 
recently whiel taking po Lasix.   

He was found to be in SVT vs VT by EMS. He was given adenosine, 
which put the patient into VT. He was cardioverted out on ___. 
Troponin I during his OSH hospitalization peaked at 7.6 (trend 
0.01 -> 5.25 -> 7.18). The patient was also diuresied in light 
of systolic heart failure with LVEF of 20%; he was also placed 
on intermittent BiPAP for SOB on ___. The patient was 
also on a nitro ggt in the setting of CHF.

Patient underwent right and left cardiac catheterization at 
___ ___. RHC showed mean RA 12, RVEDP 9, wedge 22, Mean 
PA 41, LVEDP 25.  Angiography on day of admission showed all 
vein grafts occluded with lots of native disease (total 
occulsion of RCA and LAD), but no interventions were done. 

On arrival to the floor, patient reports feeling well, denying 
symptoms of chest discomfort or shortness of breath at rest.  
  
REVIEW OF SYSTEMS:  
On review of systems, he denies any prior history of stroke, 
TIA. Patient does have a history of deep venous thrombosis and 
pulmonary embolism in the setting of ankle fracture. He also 
reports a productive cough that started recently, which he 
attributes to his seasonal allergies. He denies hemoptysis. 
Patient is unable to say whether he has black stools or red 
stools as he does not examin his stools. He denies recent 
fevers, chills or rigors. All of the other review of systems 
were negative.  
  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, palpitations, syncope 
or presyncope.  
  

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: + Diabetes, + Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY: 
- Cardiomyopathy with EF 15% 
- CABG: ___ (LIMA-LAD, SVG-OM2, SVG-OM2, SVG-PDA, SVG-PLB)
- PERCUTANEOUS CORONARY INTERVENTIONS: PTCA in ___ (stent x 
2) 
- PACING/ICD: VT s/p ablation ___  
3. OTHER PAST MEDICAL HISTORY:  
- Bladder cancer
- Pulmonary embolism, DVT ___ years ago)
- Severe degenerative arthritis
- Spondylolisthesis
- Gout

 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
Admission physical exam:
VS: T 97.8, BP 114/65, HR 96, RR 22, SpO2 95% on RA Weight 
97.3kg
I&Os: UOP 575cc  
GENERAL: WDWN lying in bed in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVD to the angle of the mandible.  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: Sternotomy incision present on the chest. No chest wall 
deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use. Crackles appreciated at the bases 
extending half-way up the lung fields bilaterally. Scattered 
expiratory wheezing appreciated through the lung fields 
bilaterally. Apices CATB posteriorly. 
ABDOMEN: Longitudinal incision on the right aspect of the 
abdomen, well-healed. Obese. Soft, NTND. BS+. No HSM or 
tenderness. Abd aorta not enlarged by palpation. No abdominial 
bruits. RLQ with puncture site with surrounding dried blood, no 
active drainage.    
EXTREMITIES: Warm. No c/c. 1+ pitting edema to the mid-shins 
bilaterally. Left wrist w/ TR band in place. 
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal. Gait not tested.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+ ___ non-palpable  
Left: DP 2+ ___ non-palpable

Discharge physical exam:
Vitals: T 98.5 BP 120/81 (107-120/71-81) HR 95 (90-95) RR 18 O2 
Sat 97% on RA 
I&Os: 1500/205; since MN 120/400
Weight 88.5kg <- 88.8kg <- 87.6kg
General: Patient sitting in chair alert, in NAD
HEENT: EOMI. MMM. Tongue midline
CV: RRR. No M/R/G
Lungs: Sternotomy incision present on the chest. No chest wall 
deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use. Crackles appreciated at the bases 
extending ___ up the lung fields bilaterally. No wheezes. Apices 
CATB posteriorly.  
Abd: Obese. Soft, NTND. BS+. No HSM or tenderness.
Ext: Warm. No c/c. 2+ pitting edema around the ankles with 1+ 
pitting edema to the mid-shins bilaterally. 
Neuro: No asterixis. 
 
Pertinent Results:
Admission labs:

___ 03:55AM BLOOD WBC-6.5 RBC-3.58* Hgb-10.3* Hct-29.9* 
MCV-84 MCH-28.7 MCHC-34.4 RDW-16.6* Plt ___
___ 03:55AM BLOOD ___ PTT-59.5* ___
___ 03:55AM BLOOD Glucose-127* UreaN-106* Creat-2.7* 
Na-128* K-4.8 Cl-89* HCO3-30 AnGap-14
___ 03:55AM BLOOD Calcium-8.6 Phos-5.2* Mg-3.1*

Imaging:
Chest X-ray: Heart is moderately enlarged.  Opacification at the 
base of the right lung in the setting of a severe diaphragm 
eventration is probably atelectasis.  Left lung is grossly 
clear.  There is no pulmonary edema or appreciable pleural 
effusion.  Right PIC line ends low in the SVC.  No pneumothorax. 


SPIROMETRY 1:43 ___ Pre drug Post drug 
    Actual Pred %Pred Actual %Pred %chg 
FVC   1.89 2.32 82       
FEV1   1.40 1.57 89       
MMF   1.00 1.90 53       
FEV1/FVC   74 68 110       
 
LUNG VOLUMES 1:43 ___ Pre drug Post drug 
    Actual Pred %Pred Actual %Pred 
TLC   3.43 4.07 84       
FRC   2.30 2.41 95       
RV   1.75 1.75 100       
VC   1.74 2.32 75       
IC   1.12 1.65 68       
ERV   0.55 0.67 83       
RV/TLC   51 43 119       
He Mix Time   3.25           
 
DLCO 1:43 ___   
    Actual Pred %Pred 
DSB   7.77 16.03 48       
VA(sb)   2.52 4.07 62       
HB   10.30           
DSB(HB)   8.73 16.03 54       
DL/VA   3.47 3.94 88 

TTE:
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The right ventricular cavity is mildly 
dilated with normal free wall contractility. The ascending aorta 
is mildly dilated. The aortic arch is mildly dilated. The aortic 
valve leaflets are severely thickened/deformed. There is 
critical aortic valve stenosis (valve area <0.8cm2). Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. [Due 
to acoustic shadowing, the severity of mitral regurgitation may 
be significantly UNDERestimated.] There is moderate pulmonary 
artery systolic hypertension. There is a trivial/physiologic 
pericardial effusion. 

IMPRESSION: Critical aortic stenosis with trace aortic 
regurgitation. Biatrial enlargment. Mild symmetric left 
ventricular hypertrophy with normal cavity size and preserved 
global and regional biventricular systolic function. Mildly 
dilated right ventricle. Mildly dilated ascending aorta and 
aortic arch. At least mild mitral regurgitation. Moderate 
pulmonary artery systolic hypertension.  

Renal U/S: 
FINDINGS:  There is no hydronephrosis seen in either kidney.  
The right kidney measures 12.4 cm, and the left kidney is noted 
to be smaller measuring only 9.4 cm.  A small simple cyst is 
seen in the lateral margin of the right kidney measuring 1.2 x 
1.4 x 1.2 cm.  A small simple cyst is also seen in the 
interpolar region of the left kidney measuring 1.1 x 0.9 cm.  
There is no stone or suspicious solid mass seen in either 
kidney. No perinephric fluid collection is identified.  The 
bladder is moderately distended and is unremarkable in 
appearance. 
  
DOPPLER EXAMINATION:  Color Doppler and spectral waveform 
analysis was 
performed.  Arterial waveforms with normal sharp upstrokes are 
seen in the main renal artery of the right kidney.  Appropriate 
venous flow is seen in the main right renal vein.  Resistive 
indices of the intraparenchymal arteries in the right kidney are 
elevated measuring 0.82-0.89. 
Arterial and venous flow is identified within the left kidney, 
however 
arterial waveforms do not demonstrate any reliable diastolic 
flow. 
IMPRESSION: 
1.  No hydronephrosis.  There are bilateral simple renal cysts 
and the left kidney is noted to be significantly smaller than 
the right kidney. 
2.  No sonographic evidence of renal artery stenosis in the 
right kidney.  The right renal artery stent cannot be visualized 
with ultrasound.  Elevated resistive indices in the right 
kidney, consistent with chronic parenchymal disease.  Arterial 
and venous flow identified in the smaller left kidney; however, 
the arterial waveforms do not demonstrate any diastolic flow. 
Perhaps this is consistent with the reported history that the 
patient's left kidney is not functioning. 

Discharge labs:

___ 08:41AM BLOOD WBC-6.1 RBC-3.54* Hgb-9.6* Hct-29.5* 
MCV-84 MCH-27.2 MCHC-32.6 RDW-17.1* Plt ___
___ 08:41AM BLOOD ___ PTT-47.6* ___
___ 08:41AM BLOOD Glucose-216* UreaN-107* Creat-2.4* Na-133 
K-4.4 Cl-95* HCO3-27 AnGap-15
___ 08:41AM BLOOD Calcium-8.0* Phos-5.1* Mg-2.7*
 
Brief Hospital Course:
In summary, Ms. ___ is a ___ with history of aortic 
stenosis s/p ___ ___ complicated by pericardial tamponade 
requiring pericardiocentesis, nonobstructive CAD (cath ___ 
with 30% eccentric stenosis just after the origin of D1), renal 
artery stenosis s/p R renal stent, atrial fibrillation on 
warfarin, recurrent pleural effusion s/p left VATS pleurodesis, 
who initially presented to ___ on ___ with chest pain and 
dyspenea, found to have acute on chronic CHF with worsening 
aoritic stenosis, now transferred to ___ for corvalve 
evaluation.

# Aortic stenosis: Holding further work-up/intervention in lgiht 
of kidney function. Patient w/ severe AS with valve area by TTE 
of 0.5cm2 with peak trans AV gradient of 106mmHg. There is also 
evidence of symmetric LVH with EF of 75%. Patient had PFTs done 
Patient is not a surgical candidate. Further work-up for 
___ as an outpatient per Dr. ___ in light of kidney 
injury.

# Acute on chronic diastolic heart failure exacerbation: RHC at 
___ showed at Wedge pressure of 32 mmHg with PA presure 50/2, 
mean of 31mmHg. On exam, patient's volume status is stable, as 
is her respiratory status. Patient initially received 120mg po 
lasix, but in light of rising creatinine this was held. The 
patient remained euvolemic while serum creatinine rose. 
Patient's serum creatinine fell to 2.4 on day of discharge. 
Instructed the patient to resume diuresis on ___. 

# Chronic kidney disease: Patient with chronic kidney disease; 
baseline is unknown. Her creatinine acutely rose during her 
hospitalization at ___ to 2.8. Renal was consulted. Her 
elevated serum creatinine was attributed to constrast-induced 
nephropathy superimposed on  poor forward flow secdonary to 
severe AS. Renal ultrasound at ___ showed no hydronephrosis, 
simple renal cysts and the left 
kidney, and no evidence of renal stenosis to the right kidney, 
though the arterial waveforms do not demonstrate any diastolic 
flow left kidney. Sevelamir 1800mg TID with meals was continued. 
Of note, renal ultrasound at ___ showed patent right renal 
artery stent. Of note, the patient will need a GFR of at least 
20 to participate in Corvalve trial.   
  OUTPATIENT ISSUES: Serum creatinine check ___ ___ontrast-induced nephropathy and restarting home 
diuresis ___. 

# Complicated urinary tract infection: Patient's urine anaylsis 
showed signs of UTI, and the patient complains of a pressure 
when she urinates that she has not had before. She had a Foley 
catheter in place during her hospitalization at OSH. The patient 
was started on ceftriaxone 1g every 24 hours for a pan-sensitive 
E. coli. On day of discharge, the patient was transitioned to 
amoxicillin-sulbactam (renally dosed) to take for another 12 
days in light of Foley catheter placement. 
  OUTPATIENT ISSUES: Continuation of antibiotics to complete a 
full treatment course for complicated urinary tract infection. 

# Coronary artery disease: At OSH, patient was found to have 
non-obstructive coronary artery disease during cardiac 
catheterization. She was started on simvastatin 20mg daily at 
OSH, which the the patient was instructed to continue upon 
discharge. 

# Hyponatremia: Improved this AM in light of holding diuresis. 
Partially related to patient's chronic heart failure and 
overdiuresis. TSH was within normal limits. Serum cortisol was 
slightly elevated at 20.3 (upper limit of normal 20.0).

# Atrial fibrillation: Patient arrived with heparin gtt from 
OSH. Coumadin was held in light of prcedures but restarted 
___ as no procedures would be done this hospitaliation. 
Patient's metoprolol was also conitnued at 100mg twice daily. 
Patient's primary care doctor's office was notified that the 
patient will need a coumadin check ___. 

# Type 2 Diabetes Mellitus: Insulin dependent as an outpatient, 
managed with NPH insulin twice daily. The patient's home regimen 
was continued through the admission with sliding scale availble 
as needed for coverage. Patient was discharged home on NPH 20 
units in the mornign and 9 units at night.   

# History of GI Bleed: In the setting of high INR found to be 
due to gastric AVMs. AVMs s/p clipping ___. Patient was 
continued on a heparin drip, and she had no episodes of GI 
bleeding during this admission. Hematocrit remained stable. 

# Pain management: Continued Vidocin PRN, Lidocaine patch, as 
well as amitriptyline. 
 
Medications on Admission:
HOME MEDICATIONS: (verified with patient) 
Amitriptyline 25mg po qhs
centrum silver 1 tab daily
humulin 20U sc QAM, and 9U QPM
lasix 40mg po daily
lidoderm transdermal patch 
metoprolol tartrate 100mg po BID
renagel 400mg po TID with meals
trazodone 50mg po qhs
urocit-K 10 meq BID
vicodin 7.5/750mg q4h prn
vitamin b12 injection monthly
vitamin d3 2000U daily
coumadin 4mg po qpm

MEDICATIONS ON TRANSFER:
Lasix 120mg PO BID
metoprolol tartrate 100mg po BID
simvastatin 20mg po qpm
omeprazole 20mg po BID
miralax
renagel 400mg po TID with meals
heparin ggt
aspirin 81mg po daily
ISS
NPH 20 U sc qam, 9 U sc QPM
trazadone 50mg po qhs
vicodin 7.5/750mg q4h prn
B12 injection monthly
Multivitamin daily
lidocaine patch 
Vit D3 1000U BID
Amitriptyline 25mg po qhs
 
Discharge Medications:
1. Amitriptyline 25 mg PO HS 
2. Aspirin 81 mg PO DAILY 
3. NPH 20 Units Breakfast
NPH 9 Units Dinner
4. Lidocaine 5% Patch 3 PTCH TD DAILY 
5. Simvastatin 20 mg PO HS 
RX *simvastatin 20 mg daily Disp #*30 Tablet Refills:*0
6. traZODONE 50 mg PO HS 
7. Vitamin D 1000 UNIT PO DAILY 
8. Warfarin 4 mg PO DAILY16 
9. Multivitamins 1 TAB PO DAILY 
10. Renagel *NF* 1200  Other TID with meals  
RX *Renagel 400 mg Three times daily with meals Disp #*30 Tablet 
Refills:*0
11. Metoprolol Tartrate 100 mg PO BID 
HOLD for SBP < 100, HR < 60  
12. Vicodin 1.5 TAB PO Q4H:PRN pain  
13. Cyanocobalamin 100 mcg IM/SC ONCE A MONTH 
14. Furosemide 40 mg PO BID 
In the morning, take 80mg, and in the evening, take 40mg. Start 
taking this medication on ___ 
15. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 12 Days 

RX *amoxicillin-pot clavulanate 500 mg-125 mg Twice daily Disp 
#*24 Tablet Refills:*0
16. Outpatient Lab Work
Please check serum chemistry panel, including serum creatinine 
and INR on ___. 
Diagnosis: Atrial fibrillation and chronic kidney disease
Fax results to ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Critical aortic stenosis
Acute on chronic renal insufficiency 

SECONDARY DIAGNOSIS: 
Hypertension
Atrial fibrillation
Type 2 Diabetes Mellitus 
Complicated urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
It was a pleasure taking care of you during your hospitalization 
at ___.

You were transferred to ___ for 
evaluation of ___ placement. Your kidney function was 
noted to be decreased during this admission. Because of 
depressed kidney function, you did not undergo further work-up 
for possible ___ or other procedures during this 
hospitalization. 

You were also found to have a urinary tract infection, which you 
were started on antibiotics for. You will need to complete a 
full course of antibiotics- another 12 days.  

Take all medications as instructed. Note the following 
medication changes:
- *START* Lasix ___ at your original home dosing. We are 
holding the doses ___ to give your kidneys rest 
- *INCREASED* Renagel to 1200mg three times daily with meals
- *START* Amoxicillin-clavulanic acid every 12 hours for the 
next ___ days. This is an antibiotic to treat your urinary tract 
infection.
- *START* simvastatin 20mg daily 

Keep all hospital follow-up appointments. Your ___ 
hospital appointments are provided in a list for you. 

You will need to have your kidney function and INR checked 
___. Your primary care doctor has been 
notified of this lab work as well as the ___ clinic 
associated with your primary care physician's office; the 
results of the serum chemistry will need to be faxed to him.  

 
Followup Instructions:
___